US04939130
3.3 g (0.0072 mole) of tetraethyl 2-(benzylimidazol-2-yl)ethane-1,1-diphosphonate are dissolved in 50 ml of liquid ammonia and, with stirring, 1.0 g of sodium is added gradually in small portions until the blue colour of the solution is maintained for some time. Then 2.35 g of ammonium chloride are added in portions. The ammonia is then removed by evaporation, the residue is taken up in diethyl ether, the solution is filtered and the filtrate is concentrated by evaporation, affording tetraethyl 2-(imidazol-2-yl)ethane-1,1-diphosphonate as a colourless oil.

reactant | tetraethyl 2-(benzylimidazol-2-yl)ethane-1,1-diphosphonate | 0.0072 mole, 3.3 g | C(C1=CC=CC=C1)C=1N=C(NC1)CC(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C20H32N2O6P2
reactant | sodium | 1.0 g | [Na] | Na
reactant | ammonium chloride | 2.35 g | [Cl-].[NH4+]
solvent | ammonia | N | H3N
product | tetraethyl 2-(imidazol-2-yl)ethane-1,1-diphosphonate | N1C(=NC=C1)CC(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C13H26N2O6P2
